US06537994B2
4-[(2S)-3-(2-{4-[2-(4-Ethyl-phenyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol
2-{4-[2-(4-Ethylphenyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}-1-ethanamine formate (0.27 g, 0.746 mmol) was reacted with tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane (0.2 g, 0.5 mmol) according to Procedure G (eluant: 20:1 going to 5:1 chloroform-methanol) to give the title compound (0.13 g, 0.174 mmol).

reactant | 2-{4-[2-(4-Ethylphenyl)-3H-imidazo[4,5-b]pyridin-3-yl]phenyl}-1-ethanamine formate | 0.746 mmol, 0.27 g | C(=O)O.C(C)C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCN
reactant | tert-butyl-(4-oxiranylmethoxy-phenoxy)-diphenyl-silane | 0.5 mmol, 0.2 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OCC1OC1 | C25H28O3Si
solvent | chloroform methanol | C(Cl)(Cl)Cl.CO
product | 4-[(2S)-3-(2-{4-[2-(4-Ethyl-phenyl)-imidazo[4,5-b]pyridin-3-yl]-phenyl}-ethylamino)-2-hydroxy-propoxy]-phenol | 0.174 mmol, 0.13 g | C(C)C1=CC=C(C=C1)C1=NC=2C(=NC=CC2)N1C1=CC=C(C=C1)CCNC[C@@H](COC1=CC=C(C=C1)O)O | C31H32N4O3
